US09260425B2
To a solution of 5-bromo-1H-pyrazolo[3,4-c]pyridine (100 mg, 0.5 mmol) in DME:EtOH (5:1, 5 mL) was added Pd(dppf)Cl2 (20 mg), saturated solution of Na2CO3 (1 mL) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (116 mg, 0.6 mmol). Under argon, the mixture was stirred under microwave irradiation for 60 min at 150. After cooling down, the solvent was removed under reduced pressure and the residue was purified by silica-gel column chromatography (mobile phase: EA:PE=1:1) to afford 5-(1H-pyrazol-4-yl)-1H-pyrazolo[3,4-c]pyridine (40 mg, 43%). 1H NMR (500 MHz, MeOD) δ 9.17 (s, 1H), 8.98 (s, 1H), 8.17 (m, 3H), 8.05 (d, J=1.5, 1H). ESI MS m/z=186.1 (M+1).

reactant | 5-bromo-1H-pyrazolo[3,4-c]pyridine | 0.5 mmol, 100 mg | BrC=1C=C2C(=CN1)NN=C2 | C6H4BrN3
reactant | Na2CO3 | 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.6 mmol, 116 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
solvent | DME EtOH | 5 mL | COCCOC.CCO
catalyst | Pd(dppf)Cl2 | 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(1H-pyrazol-4-yl)-1H-pyrazolo[3,4-c]pyridine | 40 mg, 43% | N1N=CC(=C1)C=1C=C2C(=CN1)NN=C2 | C9H7N5
